US04831151
The base is liberated from 7.3 g (26 mmol) of 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole hydrochloride with saturated sodium hydrogen carbonate solution. This base is taken up in methylene chloride. The solution is dried over sodium sulphate and concentrated. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole of melting point 120°-121°.

reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole hydrochloride | 26 mmol, 7.3 g | Cl.CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole | CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C | C14H18N4
